US08791147B2
A 100 mL round-bottomed flask was charged with 1-(4-fluorophenyl)-5-(hydroxymethyl)pyridin-2(1H)-one (0.420 g, 1.92 mmol) and 15 mL of CH2Cl2. To this was added Dess-Martin Periodinane (1.02 g, 2.39 mmol). After stirring at rt for 30 min, 15 mL of satd aq sodiumthiosulfate soln and 15 mL of satd aq sodium bicarbonate soln were added. The mixture was extracted with CH2Cl2 (3×30 mL) and the combined extracts were dried and concentrated. The residue was purified by MPLC to give 1-(4-fluorophenyl)-6-oxo-1,6-dihydro-3-pyridinecarbaldehyde.

reactant | 1-(4-fluorophenyl)-5-(hydroxymethyl)pyridin-2(1H)-one | 1.92 mmol, 0.420 g | FC1=CC=C(C=C1)N1C(C=CC(=C1)CO)=O | C12H10FNO2
reactant | Dess-Martin Periodinane | 2.39 mmol, 1.02 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodiumthiosulfate | 15 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 15 mL | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-fluorophenyl)-6-oxo-1,6-dihydro-3-pyridinecarbaldehyde | FC1=CC=C(C=C1)N1C=C(C=CC1=O)C=O | C12H8FNO2
